US04450272
N-Phenethyl-4-(2-pyrazinyl)-1-piperazinethiocarboxamide
To a solution of 4.92 g. of 1-(2-pyrazinyl)piperazine in 30 ml. of anhydrous ether is added dropwise a solution of 4.89 g. of phenethyl isothiocyanate in 30 ml. of anhydrous ether over 10 minutes. An additional30 ml. of anhydrous ether is required to maintain stirring over 30 minutes.The resulting solid is collected, dissolved in 100 ml. of benzene and 25 ml. of ethanol and cooled. The resulting solid is collected, giving 5.68 g. of the desired product as a white solid, m.p. 162°-163° C.

reactant | 1-(2-pyrazinyl)piperazine | N1=C(C=NC=C1)N1CCNCC1 | C8H12N4
reactant | phenethyl isothiocyanate | C(CC1=CC=CC=C1)N=C=S | C9H9NS
solvent | ether | CCOCC | C4H10O
product | N-Phenethyl-4-(2-pyrazinyl)-1-piperazinethiocarboxamide | C(CC1=CC=CC=C1)NC(=S)N1CCN(CC1)C1=NC=CN=C1 | C17H21N5S
